US07638515B2
1,1,1-Trifluoro-4-phenyl-2-[(phenyl)iminomethyl]-4-methylpentan-2-ol
Analogously to Example 1, 200 mg of 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal and 64 μl of aniline are converted into 180 mg of product.

reactant | 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal | 200 mg | OC(C=O)(CC(C)(C1=CC=CC=C1)C)C(F)(F)F | C13H15F3O2
reactant | aniline | 64 μl | NC1=CC=CC=C1 | C6H7N
product | 1,1,1-Trifluoro-4-phenyl-2-[(phenyl)iminomethyl]-4-methylpentan-2-ol | FC(C(CC(C)(C)C1=CC=CC=C1)(O)C=NC1=CC=CC=C1)(F)F | C19H20F3NO
